US07151105B2
Step 2: 2-(4-Bromo-2-methyl-phenyl)propan-2-ol
To 4-bromo-2-methyl-benzoic acid methyl ester (3.7 g, 15.9 mmol) in diethyl ether (10 mL) at 0° C. under N2 was added 3N methylmagnesium bromide in diethyl ether (21 mL, 63 mmol). The mixture was stirred 16 h at room temperature. The mixture was poured into 1N hydrochloric acid (aq, 10 mL) and extracted with ethyl acetate. The organic layer was washed with saturated sodium chloride, dried (MgSO4), filtered, and concentrated in vacuo to a crude colorless oil. Flash chromatography (SiO2, 5% ethyl acetate/hexane) gave the title compound as a colorless oil (2.6 g, 72%). 1H NMR (300 MHz, CDCl3): δ ppm 1.63 (s, 6 H) 2.56 (s, 3 H) 7.26–7.34 (m, 3 H).

reactant | 4-bromo-2-methyl-benzoic acid methyl ester | 15.9 mmol, 3.7 g | COC(C1=C(C=C(C=C1)Br)C)=O | C9H9BrO2
reactant | methylmagnesium bromide | 3N | C[Mg]Br
reactant | hydrochloric acid | 1N, 10 mL | Cl | ClH
reactant | diethyl ether | 10 mL | C(C)OCC | C4H10O
reactant | diethyl ether | 63 mmol, 21 mL | C(C)OCC | C4H10O
product | 2-(4-Bromo-2-methyl-phenyl)propan-2-ol | 2.6 g, 72% | BrC1=CC(=C(C=C1)C(C)(C)O)C | C10H13BrO
